Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Morbid obesity
 
Major Surgical or Invasive Procedure:
___: laparoscopic sleeve gastrectomy

 
History of Present Illness:
Per Dr. ___ has class III morbid obesity with 
weight of 300.1 pounds asof ___ with her initial screen 
weight of 298.7 pounds on
___, height 66 inches and BMI of 48.4.  Her previous weight
loss efforts have included Weight Watchers, physician 
___ management with Dr. ___ at 
___ and prescription weight loss 
medication phentermine as well as self-directed diets and 
exercise.  She had been able to lose up to 40 pounds in her 
previous weight loss efforts but these attempts have failed to 
produce lasting results.  Shestated that her lowest adult weight 
was 200 pounds at the age of ___.  She weighed 240 pounds at age 
___ and 263 pounds ___ years ago. Her highest weight is 305 pounds 
on ___.  She stated that she has been struggling with weight 
since childhood and cites as factors contributing to her excess 
weight inconsistent meal pattern, large portions, late-night 
eating, convenience eating, too many carbohydrates, emotional 
eating, genetics and lack of exercise.  She denied history of 
eating disorders - no anorexia, bulimia, diuretic or laxative 
abuse and she denied binge eating. 
She does have depression/anxiety/ADHD but does not have a 
clinical diagnosis of depression she is not currently followed 
by a therapist (had seen a therapist in ___ nor has she been 
hospitalized for mental health issues and she is not on any 
psychotropic medications.
 
Past Medical History:
1)  history of kidney stones in ___
2)  history of hyperinsulinemia over ___ years ago currently 
    normal
3)  migraine headaches
4)  insomnia/fatigue
5)  café ___ spots
6)  vitamin D deficiency
7)  iron deficiency with saturation of 16%
8)  scoliosis
9)  history of nevus

Her surgical history includes lithotripsy for kidney stone
 
Social History:
___
Family History:
Her family history is noted for father deceased age ___ of 
alcohol abuse, type 2 diabetes, coronary artery disease, and 
stroke; mother living age ___ with diabetes and obesity; 5 
brothers alive with history of alcoholism, type 2 diabetes; 2 
sisters living with no significant issues; maternal grandmother 
with hypertension, stroke; maternal grandfather with 
hypertension.

 
Physical Exam:
Vitals: ___ 1140 Temp: 98.1 PO BP: 120/74 HR: 71 RR: 18 O2
sat: 96% O2 delivery: Ra FSBG: 138 
Gen: AAOx3, well appearing, NAD
CV: RRR
Pulm: Breathing unlabored on room air
Abd: Soft, obese, appropriately TTP near port sites, no drainage
with dressings intact
Ext: wwp
 
Brief Hospital Course:
Ms. ___ is a ___ with morbid obesity who underwent a 
laparoscopic sleeve gastrectomy on ___.  There were 
no adverse events in the operating room; please see the 
operative note for details. Pt was extubated, taken to the PACU 
until stable, then transferred to the ward for observation.  
Neuro: The patient was alert and oriented throughout 
hospitalization; pain was managed with a preoperative TAP block 
and postoperative acetaminophen, ketorolac and gabapentin.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.  
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization.  
GI/GU/FEN: The patient was initially kept NPO. Afterwards, the 
patient was started on a stage 1 bariatric diet, which the 
patient tolerated well. Subsequently, the patient was advanced 
to stage 2, which was well tolerated.
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.  
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.  
At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. The patient was tolerating a 
bariatric stage 2 diet, ambulating, voiding without assistance, 
and pain was well controlled. The patient received discharge 
teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan.  

 
Medications on Admission:
1. Ferrous Sulfate Dose is Unknown  PO DAILY 
2. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Acetaminophen (Liquid) 650 mg PO Q6H:PRN Pain - Mild/Fever 
RX *acetaminophen 650 mg/20.3 mL 20 ml by mouth every six (6) 
hours Disp #*300 Milliliter Refills:*0 
2.  Famotidine 20 mg PO BID 
RX *famotidine 20 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
3.  Ferrous Sulfate 325 mg PO DAILY  
4.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Morbid obesity

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You have undergone a laparoscopic sleeve gastrectomy, recovered 
in the hospital and are now preparing for discharge to home with 
the following instructions:
Please call your surgeon or return to the Emergency Department 
if you develop a fever greater than ___ F, shaking chills, chest 
pain, difficulty breathing, pain with breathing, cough, a rapid 
heartbeat, dizziness, severe abdominal pain, pain unrelieved by 
your pain medication, a change in the nature or severity of your 
pain, severe nausea, vomiting, abdominal bloating, severe 
diarrhea, inability to eat or drink, foul smelling or colorful 
drainage from your incisions, redness, swelling from your 
incisions, or any other symptoms which are concerning to you.  
Diet: Stay on Stage II diet until your follow up appointment; 
this stage was previously called stage III and consists of 
protein shakes, sugar free smooth pudding/ yogurt, etc; please 
refer to your work book for detailed instructions. Do not self- 
advance your diet and avoid drinking with a straw or chewing 
gum. To avoid dehydration, remember to sip small amounts of 
fluid frequently throughout the day to reach a goal of 
approximately ___ mL per day. Please note the following signs 
of dehydration: dry mouth, rapid heartbeat, feeling dizzy or 
faint, dark colored urine, infrequent urination.  
Medication Instructions:  
Please refer to the medication list provided with your discharge 
paperwork for detailed instruction regarding your home and newly 
prescribed medications.  
Some of the new medications you will be taking include:  
1. Pain medication: You will receive a prescription for liquid 
acetaminophen (Tylenol), do not exceed 3000 mg per 24 hour 
period.  
2. Antacids: You will be taking famotidine tablets, 20 mg twice 
daily, for one month. This medicine reduces stomach acid 
production. Please crush.  
3. You must not use NSAIDS (non-steroidal anti-inflammatory 
drugs) unless approved by your Weight Loss Surgery team. 
Examples include, but are not limited to Aleve, Arthrotec, 
aspirin, Bufferin, diclofenac, Ecotrin, etodolac, ibuprofen, 
Indocin, indomethacin, Feldene, ketorolac, meclofenamate, 
meloxicam, Midol, Motrin, nambumetone, Naprosyn, Naproxen, 
Nuprin, oxaprozin, Piroxicam, Relafen, Toradol and Voltaren. 
These agents may cause bleeding and ulcers in your digestive 
system. If you are unclear whether a medication is considered an 
NSAID, please ask call your nurse or ask your pharmacist.  
4. Vitamins/ minerals: You may resume a chewable multivitamin, 
however, please discuss when to resume additional vitamin and 
mineral supplements with your bariatric dietitian.  
Activity:  
You should continue walking frequently throughout the day right 
after surgery; you may climb stairs.  
You may resume moderate exercise at your discretion, but avoid 
performing abdominal exercises or lifting items greater than10 
to 15 pounds for six weeks.  
Wound Care:  
You may remove any remaining gauze from over your incisions. You 
will have thin paper strips (Steri-Strips) over your incision; 
please, remove any remaining Steri-Strips seven to 10 days after 
surgery.  
You may shower 48 hours following your surgery; avoid scrubbing 
your incisions and gently pat them dry. Avoid tub baths or 
swimming until cleared by your surgeon.  
If there is clear drainage from your incisions, cover with 
clean, dry gauze.  
Please call the doctor if you have increased pain, swelling, 
redness, cloudy, bloody or foul smelling drainage from the 
incision sites.  
Avoid direct sun exposure to the incision area for up to 24 
months.  
Do not use any ointments on the incision unless you were told 
otherwise.  

 
Followup Instructions:
___